US08530468B2
5-amino-3-chloropyrazine-2-carbonitrile
A mixture of 5-bromo-6-chloropyrazin-2-amine (1.00 g, 4.8 mmol), copper (I) iodide (914 mg, 4.8 mmol), 18-crown-6 (95 mg, 0.36 mmol) and tetrakis(triphenylphosphine)palladium (0) (83 mg, 0.072 mmol) was suspended in dry DMF (20 mL) and a stream of nitrogen was passed through it for 5 minutes. Potassium cyanide (312 mg, 4.8 mmol) was added and the mixture was stirred at room temperature for 30 minutes, then refluxed at 200° C. for 3 hours. The mixture was cooled and diluted with EtOAc and absorbed onto silica gel (10 g). DMF was removed by evaporation in a Genevac evaporator. The product was purified by flash chromatography, eluting with 1:1 ethyl acetate-hexane, to yield the title compound as a yellow solid (607 mg, 3.93 mmol, 82%). 1H NMR (d6-DMSO, 400 MHz) δ 8.1 (br s, 2H), 7.87 (s, 1H). LC-MS (1) Rt=1.20 min; m/z (ESI−) 153 (M−H).

reactant | 5-bromo-6-chloropyrazin-2-amine | 4.8 mmol, 1.00 g | BrC=1N=CC(=NC1Cl)N | C4H3BrClN3
reactant | Potassium cyanide | 4.8 mmol, 312 mg | [C-]#N.[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper (I) iodide | 4.8 mmol, 914 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.072 mmol, 83 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | 18-crown-6 | 0.36 mmol, 95 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 5-amino-3-chloropyrazine-2-carbonitrile | 3.93 mmol, 607 mg, 82% | NC=1N=C(C(=NC1)C#N)Cl | C5H3ClN4
